US04820734
A solution of 105 g (0.4 mol) of rac-(2S*)-2-[(R*)-4-fluoro-α-(nitromethyl)benzyl]cyclohexanone in 1 l of dry tetrahydrofuran is added dropwise while stirring to a suspension of 38 g (1 mol) of lithium aluminum hydride in 500 ml of dry tetrahydrofuran under argon so that the temperature does not exceed 50°. The reaction mixture is stirred at 50° for 15 hours, cooled and then treated with tetrahydrofuran/water (1:1). The separated precipitate is filtered off under suction while washing with methylene chloride and the filtrate is distilled. The oil obtained is treated with 3N hydrochloric acid, extracted twice with 500 ml of ether each time, the aqueous phase is made alkaline with ammonia and extracted with ether. The organic phase is washed with water, dried over magnesium sulphate and evaporated. The oil obtained is dissolved in 250 ml of isopropyl ether, whereupon the solution is left to stand in a refrigerator overnight for crystallization. There is obtained rac-(1S*)-cis-2-[(R*)-α-(aminomethyl)-4-fluorobenzyl]cyclohexanol in the form of colourless crystals of m.p. 75°-76°. The rac-(1S*)-cis-2-[(R*)-α-(aminomethyl)-4-fluorobenzyl]cyclohexanol hydrochloride prepared in the usual manner is recrystallized from ethanol/ether; there are obtained colourless crystals of m.p. 233°-234°.

reactant | rac-(2S*)-2-[(R*)-4-fluoro-α-(nitromethyl)benzyl]cyclohexanone | 0.4 mol, 105 g | FC1=CC=C([C@H](C[N+](=O)[O-])C2C(CCCC2)=O)C=C1 | C14H16FNO3
reactant | lithium aluminum hydride | 1 mol, 38 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran water | O1CCCC1.O
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | tetrahydrofuran | 1 l | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | isopropyl ether | 250 ml | C(C)(C)OC(C)C | C6H14O
product | rac-(1S*)-cis-2-[(R*)-α-(aminomethyl)-4-fluorobenzyl]cyclohexanol | NC[C@@H](C1=CC=C(C=C1)F)[C@@H]1[C@@H](CCCC1)O | C14H20FNO
